US07713994B2
To a solution of (4Z)-6-bromo-4-({[4-(4-methylpiperazin-1-yl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione (67 mg, 0.15 mmol) in N,N-dimethylformamide (1 mL) is added diethyl phosphite (22 μL) and tetrakis(triphenylphosphine)palladium(0) (9 mg, 8 μmol, 0.05 mol %). The mixture is heated in a 120° C. oil bath for 6 hour and then purified by reverse phase high performance liquid chromatography to give diethyl [(4Z)-4-({[4-(4-methylpiperazin-1-yl)phenyl]amino}methylene)-1,3-dioxo-1,2,3,4-tetrahydroisoquinolin-6-yl]phosphonate as its ditrifluoroacetate salt (8.8 mg, 3.1%).

reactant | (4Z)-6-bromo-4-({[4-(4-methylpiperazin-1-yl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 0.15 mmol, 67 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1CCN(CC1)C | C21H21BrN4O2
reactant | diethyl phosphite | 22 μL | P(OCC)(OCC)[O-]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 8 μmol, 9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | diethyl [(4Z)-4-({[4-(4-methylpiperazin-1-yl)phenyl]amino}methylene)-1,3-dioxo-1,2,3,4-tetrahydroisoquinolin-6-yl]phosphonate | CN1CCN(CC1)C1=CC=C(C=C1)N\C=C\1/C(NC(C2=CC=C(C=C12)P(OCC)(OCC)=O)=O)=O | C25H31N4O5P
